US06545017B1
N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}morpholin-4-ylcarboxamide
Using the method of Examples 94-105, 4-morpholinecarbonyl chloride was reacted with 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 391.2465.

reactant | 4-morpholinecarbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC | C14H23N5O
product | N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}morpholin-4-ylcarboxamide | NC1=NC(=C(C2=C1N=C(N2CCCNC(=O)N2CCOCC2)COCC)C)C | C19H30N6O3
